US04659717
1,4-Dihydro-2,6-dimethyl-4-thieno[3,2-c]pyridin-3-yl-3,5-pyridinedicarboxylic acid, 3-ethyl 5-isopropyl ester
A solution of 1 g of thieno[3,2-c]pyridine-3-carboxaldehyde, 1.08 g of isopropyl acetoacetate, and 0.9 g of ethyl 3-aminocrotonate in 4 ml of ethanol was heated to reflux for approximately 18 hours. Upon cooling, a solid formed which was recovered by filtration providing 0.73 g of the desired title product, m.p. 212°-215° C.

reactant | thieno[3,2-c]pyridine-3-carboxaldehyde | 1 g | S1C=C(C=2C=NC=CC21)C=O | C8H5NOS
reactant | isopropyl acetoacetate | 1.08 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | ethyl 3-aminocrotonate | 0.9 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 1,4-Dihydro-2,6-dimethyl-4-thieno[3,2-c]pyridin-3-yl-3,5-pyridinedicarboxylic acid, 3-ethyl 5-isopropyl ester | 0.73 g | CC=1NC(=C(C(C1C(=O)OCC)C1=CSC2=C1C=NC=C2)C(=O)OC(C)C)C | C21H24N2O4S
